* C:\Users\subha\OneDrive\Documents\GitHub\PMIC_Final_Project_Fall_Buck_Converter\tb_error_amplifier.asc
XX1 N001 N002 N003 0 vout error_amplifier
V1 N001 0 1.8
V2 N002 0 0.8
V3 N003 0 0.8 AC 1

* block symbol definitions
.subckt error_amplifier VDDA VINN VINP GNDA VOUT
Q1 N006 N007 GNDA 0 2N3904
R1 N007 GNDA 1Meg
Q2 N001 N006 N007 0 2N3904
M3 N001 N001 VDDA VDDA CMOSP l=180n w=5u
R2 VDDA N006 1Meg
M4 N002 N001 VDDA VDDA CMOSP l=180n w=5u
M5 N003 VINP N002 N002 CMOSP l=180n w=1.35u
M6 N005 VINN N002 N002 CMOSP l=180n w=1.35u
M7 N003 N005 GNDA GNDA CMOSN l=360n w=360n
M8 N005 N005 GNDA GNDA CMOSN l=360n w=360n
M9 N004 N001 VDDA VDDA CMOSP l=360n w=5u
M1 N004 N003 GNDA GNDA CMOSN l=360n w=1u
C1 N004 N003 100f
M2 GNDA N004 VOUT VOUT CMOSP l=180n w=5u
M10 VOUT N001 VDDA VDDA CMOSP l=180n w=5u
.include tsmc018.lib
.ends error_amplifier

.model NPN NPN
.model PNP PNP
.lib C:\Users\subha\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\subha\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.mos
.ac dec 20 100 1G
.op
.backanno
.end
