* C:\Users\subha\OneDrive\Documents\GitHub\PMIC_Final_Project_Fall_Buck_Converter\tb_error_amplifier.asc
XX1 N001 N002 N003 0 vout error_amplifier
V1 N001 0 1.8
V2 N002 0 0.8
V3 N003 0 0.8 AC 1

* block symbol definitions
.subckt error_amplifier VDDA VINN VINP GNDA VOUT
Q1 N009 N005 GNDA 0 2N3904
R1 N005 GNDA 1Meg
Q2 N001 N009 N005 0 2N3904
M3 N001 N001 VDDA VDDA CMOSP l=180n w=5u
R2 VDDA N009 1Meg
M4 N002 N001 VDDA VDDA CMOSP l=180n w=5u
M5 N004 VINP N002 VDDA CMOSP l=180n w=1.35u
M6 N003 VINN N002 VDDA CMOSP l=180n w=1.35u
M7 N006 N008 GNDA GNDA CMOSN l=360n w=1u
M8 N008 N008 GNDA GNDA CMOSN l=360n w=1u
M9 N007 N001 VDDA VDDA CMOSP l=180n w=5u
C1 N007 N006 100f
M2 GNDA N007 VOUT VDDA CMOSP l=180n w=5u
M10 VOUT N001 VDDA VDDA CMOSP l=180n w=5u
M1 N007 N006 GNDA GNDA CMOSN l=180n w=1u
M11 N008 N005 N003 VDDA CMOSP l=180n w=1.35u
M12 N006 N005 N004 VDDA CMOSP l=180n w=1.35u
.include tsmc018.lib
.ends error_amplifier

.model NPN NPN
.model PNP PNP
.lib C:\Users\subha\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\subha\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.mos
.ac dec 20 100 1G
.op
.backanno
.end
