* C:\Users\subha\OneDrive\Documents\GitHub\PMIC_Final_Project_Fall_Buck_Converter\tb_error_amplifier.asc
XX1 N001 N002 N003 0 vout error_amplifier
V1 N001 0 1.8
V2 N002 0 0.8
V3 N003 0 0.8 AC 1

* block symbol definitions
.subckt error_amplifier VDDA VINN VINP GNDA VOUT
Q1 N009 N010 GNDA 0 2N3904
R1 N010 GNDA 1Meg
Q2 N001 N009 N010 0 2N3904
M3 N001 N001 VDDA VDDA CMOSP l=180n w=5u
R2 VDDA N009 1Meg
M4 N002 N001 VDDA VDDA CMOSP l=180n w=5u
M7 N005 N007 GNDA GNDA CMOSN l=360n w=1u
M8 N007 N007 GNDA GNDA CMOSN l=360n w=1u
M9 N006 N001 VDDA VDDA CMOSP l=180n w=5u
C1 N006 N005 100f
M2 GNDA N006 VOUT VDDA CMOSP l=180n w=5u
M10 VOUT N001 VDDA VDDA CMOSP l=180n w=5u
M1 N006 N005 GNDA GNDA CMOSN l=180n w=1u
M11 N007 GNDA N003 VDDA CMOSP l=180n w=5u
M12 N005 GNDA N004 VDDA CMOSP l=180n w=5u
M5 N002 VINN N003 GNDA CMOSN l=180n w=1u
M6 N002 VINP N004 GNDA CMOSN l=180n w=1u
R3 VDDA N008 100k
R4 N008 GNDA 1k
.include tsmc018.lib
.ends error_amplifier

.model NPN NPN
.model PNP PNP
.lib C:\Users\subha\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\subha\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.mos
.ac dec 20 100 1G
.op
.backanno
.end
